US03954754
EXAMPLE 68: 5,6,7,8-Tetrahydro-3-isopropylidenehydrazino-6-pyrido[4,3-c]pyridazinecarboxylic acid allyl ester
A solution of 4 g of 3-hydrazino-5,6,7,8-tetrahydro-6-pyrido[4,3-c]pyridazinecarboxylic acid allyl ester in 40 cc of acetone is heated at reflux on a water bath for 30 minutes. The title compound has a M.P. 134°-136° (decomp.).

reactant | 3-hydrazino-5,6,7,8-tetrahydro-6-pyrido[4,3-c]pyridazinecarboxylic acid allyl ester | 4 g | C(C=C)OC(=O)N1CC2=C(N=NC(=C2)NN)CC1 | C11H15N5O2
reactant | acetone | 40 cc | CC(=O)C | C3H6O
product | 5,6,7,8-Tetrahydro-3-isopropylidenehydrazino-6-pyrido[4,3-c]pyridazinecarboxylic acid allyl ester | C(C=C)OC(=O)N1CC2=C(N=NC(=C2)NN=C(C)C)CC1 | C14H19N5O2
